US08859541B2
E1a) tert-butyl-N-[1-[[5-(3,5-dimethyl-1,2-oxazol-4-yl)-6-(2-isoquinolin-6-ylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate
A mixture of tert-butyl-N-[1-[[5-bromo-6-(2-isoquinolin-6-ylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate C2b (300 mg, 0.59 mmol), (3,5-dimethyl-1,2-oxazol-4-yl)boronic acid (166 mg, 1.18 mmol), CsF (358 mg, 2.36 mmol) tris-(dibenzylideneacetone)dipalladium(0) (41 mg, 0.06 mmol), tri-tert-butylphosphonium tetrafluoroborate (34 mg, 0.12 mmol) and dioxane (4.5 ml) is stirred under argon atmosphere at 50° C. for 2 h. The mixture is diluted with DCM and extracted with a saturated aqueous solution of NaHCO3. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The product is purified by RP HPLC. Yield: 191 mg (62%). HPLC-MS: M+H=526; tR=1.89 min (*Method—2).

reactant | tert-butyl-N-[1-[[5-bromo-6-(2-isoquinolin-6-ylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)Br)C#CC=1C=C2C=CN=CC2=CC1)C)=O | C25H25BrN4O3
reactant | (3,5-dimethyl-1,2-oxazol-4-yl)boronic acid | 1.18 mmol, 166 mg | CC1=NOC(=C1B(O)O)C | C5H8BNO3
reactant | CsF | 2.36 mmol, 358 mg | [F-].[Cs+]
reactant | tri-tert-butylphosphonium tetrafluoroborate | 0.12 mmol, 34 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | dioxane | 4.5 ml | O1CCOCC1 | C4H8O2
product | tert-butyl-N-[1-[[5-(3,5-dimethyl-1,2-oxazol-4-yl)-6-(2-isoquinolin-6-ylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)C=1C(=NOC1C)C)C#CC=1C=C2C=CN=CC2=CC1)C)=O | C30H31N5O4
